*** Title: "D:\L_1\LR_1\LR_SSHMT_!\LR_2_SH\LR_2_Sch\LR_4\simulation\tb3\netlistLR_4.net"
*** Generated by:  Symica
*** © 2009-2014 Symica. All rights reserved. (www.symica.com)
*** Generated for: SymSpice                                     
*** Generated on:  Wed Oct 22 11:04:36 2025                     
*******************************************************************

simulator lang=local


parameters 

V0 vdd! gnd vsource type=dc dc=5 
V1 CLK gnd vsource type=pulse val0=0 val1=5 delay=2e-008 period=4e-008 rise=5e-010 fall=5e-010 width=2e-008 
C0 n7_1 gnd capacitor c=5e-014 
C1 Q gnd capacitor c=5e-014 
V2 d gnd vsource type=pulse val0=5 val1=0 delay=1e-008 period=4e-008 rise=5e-010 fall=5e-010 width=2e-008 
I6 d Q n7_1 CLK Z_6 

subckt Z_6 D Q nQ CLK 
I10 n11_2 CLK inv 
I4 n5_2 D inv 
I0 D CLK n12_3 NOR2 
I1 CLK n5_2 n13_3 NOR2 
I2 n14_1 n13_3 n14_3 NOR2 
I3 n12_3 n14_3 n14_1 NOR2 
I5 n14_1 n11_2 n16_3 NOR2 
I6 n11_2 n14_3 n17_3 NOR2 
I7 n16_3 nQ Q NOR2 
I8 Q n17_3 nQ NOR2 
ends

subckt inv out in 
M3 out in vdd! vdd! pmos_mod1.1 w=3.2e-006 l=6e-007 
M2 out in gnd gnd nmos_mod1.1 w=2e-006 l=6e-007 
ends

subckt NOR2 A B Out 
M0 Out A gnd gnd nmos_mod1.1 w=2e-006 l=6e-007 
M1 Out B gnd gnd nmos_mod1.1 w=2e-006 l=6e-007 
M2 Out B n4_1 vdd! pmos_mod1.1 w=3.2e-006 l=6e-007 
M3 n4_1 A vdd! vdd! pmos_mod1.1 w=3.2e-006 l=6e-007 
ends
