*** Title: "D:\L_1\LR_1\LR_SSHMT_!\LR_2_SH\LR_2_Sch\simulation\Z_2\netlistLR_2_Sch.net"
*** Generated by:  Symica
*** © 2009-2014 Symica. All rights reserved. (www.symica.com)
*** Generated for: SymSpice                                     
*** Generated on:  Sat Oct 18 13:56:44 2025                     
*******************************************************************

simulator lang=local


parameters 

V0 n1_2 gnd vsource type=dc dc=5 
Q0 n3_3 n3_1 n3_2 gnd KT940A 
R0 n3_3 n1_2 resistor r=4072 
R1 n3_2 gnd resistor r=109.7 
Q1 n11_3 n3_3 n11_2 gnd KT940A 
R3 n11_2 gnd resistor r=368.5 
Q2 out n11_3 n19_2 gnd KT940A 
R5 n19_2 gnd resistor r=474 
V1 in gnd vsource type=sine sinedc=0.669 ampl=0.001 freq=10000 
R7 n1_2 n3_1 resistor r=642 
R2 n11_3 n1_2 resistor r=3945 
R4 out n1_2 resistor r=2500 
C0 in n3_1 capacitor c=0.001 
R6 n3_1 gnd resistor r=100 
