*** Title: "E:\WORCK\LR_2_SH\simulation\SUM_3\netlistLR_2_SH_NID.net"
*** Generated by:  Symica
*** © 2009-2014 Symica. All rights reserved. (www.symica.com)
*** Generated for: SymSpice                                     
*** Generated on:  Thu Feb 12 23:31:07 2026                     
*******************************************************************

simulator lang=local


parameters 

V0 A_0 gnd vsource type=dc dc=0 
V1 A_1 gnd vsource type=dc dc=0 
V2 A_2 gnd vsource type=dc dc=0 
V3 B_0 gnd vsource type=dc dc=5 
V4 B_1 gnd vsource type=dc dc=0 
V5 B_2 gnd vsource type=dc dc=0 
V6 vdd! gnd vsource type=dc dc=5 
V7 C_IN gnd vsource type=dc dc=0 
I0 B_0 n6_5 A_0 n6_4 C_IN n6_6 n6_7 OUT_0 CPL_sum 
I1 B_1 n7_5 A_1 n7_4 n6_7 n7_6 n7_7 n24_0 CPL_sum 
I2 B_2 n8_5 A_2 n8_4 n7_7 n8_6 OUT_2 OUT_1 CPL_sum 
I6 n6_6 C_IN inv 
I5 n6_5 B_0 inv 
I4 n6_4 A_0 inv 
I7 n7_6 n6_7 inv 
I8 n7_5 B_1 inv 
I9 n7_4 A_1 inv 
I10 n8_6 n7_7 inv 
I11 n8_5 B_2 inv 
I12 n8_4 A_2 inv 

subckt CPL_sum B neB A neA C neC CARRY SUMM 
M4 n5_1 C CARRY gnd nmos_mod1.1 w=2e-006 l=6e-007 
M5 n2_1 neC CARRY gnd nmos_mod1.1 w=2e-006 l=6e-007 
M1 neB neA n2_1 gnd nmos_mod1.1 w=2e-006 l=6e-007 
M3 neB A n5_1 gnd nmos_mod1.1 w=2e-006 l=6e-007 
M2 B neA n5_1 gnd nmos_mod1.1 w=2e-006 l=6e-007 
M7 neA B n11_1 gnd nmos_mod1.1 w=2e-006 l=6e-007 
M8 n12_4 neA SUMM gnd nmos_mod1.1 w=2e-006 l=6e-007 
M9 n11_1 A SUMM gnd nmos_mod1.1 w=2e-006 l=6e-007 
M11 neC B n12_4 gnd nmos_mod1.1 w=2e-006 l=6e-007 
M12 neA neB n12_4 gnd nmos_mod1.1 w=2e-006 l=6e-007 
M10 neC neB n11_1 gnd nmos_mod1.1 w=2e-006 l=6e-007 
M0 B A n2_1 gnd nmos_mod1.1 w=2e-006 l=6e-007 
ends

subckt inv out in 
M3 out in vdd! vdd! pmos_mod1.1 w=3.2e-006 l=6e-007 
M2 out in gnd gnd nmos_mod1.1 w=2e-006 l=6e-007 
ends
